US08623889B2
Step 2: 2-bromo-6-chloro-1,7-naphthyridine
A mixture of 6-chloro-1,7-naphthyridin-2(1H)-one (1.0 g, 5.5 mmol) and phosphorus tribromide (10 mL) was heated in a sealed tube at 130° C. for 20 hours. The cooled reaction mixture was poured onto ice, diluted with saturated aqueous sodium carbonate solution (100 mL), and extracted with ethyl acetate (2×200 mL). The combined organic layers were dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 40 g, ISCO, 0-80% ethyl acetate in heptane) to afford the title compound as a white solid (700 mg, 50%). 1H NMR (400 MHz, DMSO) δ 9.24 (s, 1H), 8.38 (d, J=8.7 Hz, 1H), 8.20 (s, 1H), 8.02 (d, J=8.7 Hz, 1H).

reactant | 6-chloro-1,7-naphthyridin-2(1H)-one | 5.5 mmol, 1.0 g | ClC=1C=C2C=CC(NC2=CN1)=O | C8H5ClN2O
reactant | phosphorus tribromide | 10 mL | P(Br)(Br)Br | Br3P
solvent | sodium carbonate | 100 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 2-bromo-6-chloro-1,7-naphthyridine | 700 mg, 50% | BrC1=NC2=CN=C(C=C2C=C1)Cl | C8H4BrClN2
